US09034900B2
Step 2: 4-bromo-2,6-dimethylisoquinolin-1-one
2,6-Dimethylisoquinolin-1-one (120.0 mg, 0.60 mmol) in acetic acid (4 mL) was treated with Br2 (96 mg, 0.6 mmol) in acetic acid (0.6 mL) at 0° C. in a manner similar to Example 72, step 2. Isolation, also in a similar manner, gave the title compound (145.0 mg, 82.9%) as a white yellow solid. 1H NMR (CDCl3, 400 MHz) δ 8.33 (d, J=8.0 Hz, 1H), 7.60 (s, 1H), 7.37 (d, J=8.0 Hz, 1H), 7.35 (s, 1H), 3.60 (s, 3H), 2.54 (s, 3H). LCMS: 252.1 (M+H)+

reactant | 2,6-Dimethylisoquinolin-1-one | 0.60 mmol, 120.0 mg | CN1C(C2=CC=C(C=C2C=C1)C)=O | C11H11NO
reactant | Br2 | 0.6 mmol, 96 mg | BrBr | Br2
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-2,6-dimethylisoquinolin-1-one | 145.0 mg, 82.9% | BrC1=CN(C(C2=CC=C(C=C12)C)=O)C | C11H10BrNO
